US05994344
3-Morpholin-4-yl-propane-1-sulfonyl chloride hydrochloride
Thionyl chloride (10 ml) was added to 4-morpholinepropane sulfonic acid (4.4 g) followed by dimethylformamide (0.2 ml). The mixture was heated at reflux under nitrogen for 5 h. The thionyl chloride was removed in vacuo and the residue triturated with acetonitrile and filtered to give a white solid. This was dried at 80° C. in vacuo to give the title compound as a white solid (2.7 g).

reactant | Thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-morpholinepropane sulfonic acid | 4.4 g | N1(CCOCC1)CCCS(=O)(=O)O | C7H15NO4S
solvent | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | 3-Morpholin-4-yl-propane-1-sulfonyl chloride hydrochloride | 2.7 g | Cl.N1(CCOCC1)CCCS(=O)(=O)Cl | InChI=1S/C7H14ClNO3S.ClH/c8-13(10,11)7-1-2-9-3-5-12-6-4-9;/h1-7H2;1H
